US06316485B1
A mixture of 1-[4-(methylsulfonyl)phenyl]-4,4,4-trifluorobutane-1,3-dione (620 mg) and (3-methyl-4-chlorophenyl)hydrazine hydrochloride (425 mg) in acetic acid (2 ml) was refluxed for 1 hour. After cooling, the solvent was poured into water (50 ml) and stirred for 30 minutes. The resulting precipitates were collected by filtration and washed with water and dried in vacuo. The residue was recrystallized from ethanol to afford 1-(4-chloro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (569 mg).

reactant | 1-[4-(methylsulfonyl)phenyl]-4,4,4-trifluorobutane-1,3-dione | 620 mg | CS(=O)(=O)C1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C11H9F3O4S
reactant | (3-methyl-4-chlorophenyl)hydrazine hydrochloride | 425 mg | Cl.CC=1C=C(C=CC1Cl)NN
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-(4-chloro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 569 mg | ClC1=C(C=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F)C | C18H14ClF3N2O2S
